US04472433
A mixture of 2-oxo-7-phenylsulfonylindoline (6.50 g.), dioxane (100 ml.), sodium hydroxide (3.0 g.) water (50 ml.) was refluxed under heating for 16 hours with stirring. The reaction mixture was evaporated under reduced pressure, and the residue was dissolved in water, washed with diethyl ether, adjusted to pH 4 with 1N sulfuric acid and then extracted with diethyl ether. The extract was washed with water, dried over magnesium sulfate, treated with activated charcoal and evaporated under reduced pressure. The residue was washed with a mixture of ethanol and diethyl ether and cooled. The precipitates were collected by filtration to give white crystals of 2-(2-amino-3-phenylsulfonylphenyl)acetic acid (3.60 g.). mp 218° to 220° C.

reactant | 2-oxo-7-phenylsulfonylindoline | 6.50 g | O=C1NC2=C(C=CC=C2C1)S(=O)(=O)C1=CC=CC=C1 | C14H11NO3S
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 3.0 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 2-(2-amino-3-phenylsulfonylphenyl)acetic acid | 3.60 g | NC1=C(C=CC=C1S(=O)(=O)C1=CC=CC=C1)CC(=O)O | C14H13NO4S
